US06716851B2
4-Methoxy-N-[4-methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]benzamide
The title compound was prepared from a mixture of 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (10 mg, 0.029 mmol) and p-anisoyl chloride (6 mg, 0.035 mmol) similar to Example 139 and isolated as a tan solid (10 mg, 71%). 1H NMR (CDCl3): 8.77 (dd, J=1.5, 4.8 Hz, 2H), 8.29 (dd, J=1.5, 4.8 Hz, 2H), 7.99 (s, 1H), 7.86 (d, J=8.7 Hz, 2H), 7.79 (s, 1H), 7.36 (dd, J=1.8, 8.4 Hz, 1H), 7.32 (d, J=8.7 Hz, 2H), 7.02 (s, 1H), 6.99 (d, J=8.7 Hz, 2H), 3.88 (s, 3H), 2.29 (s, 3H).

reactant | 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.029 mmol, 10 mg | NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H14F3N5
reactant | p-anisoyl chloride | 0.035 mmol, 6 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 4-Methoxy-N-[4-methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]benzamide | COC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C1 | C25H20F3N5O2
